US08222245B2
4-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]butanoic acid acetate
Ethyl 4-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]butanoate (preparation 11) (90 mg, 0.184 mmol) dissolved in ethanol (20 ml) was treated with sodium hydroxide (0.184 ml, 0.368 mmol) (2N (aq)) solution followed by water (5.00 ml). This mixture was stirred at RT for 3 hours and left standing overnight. 2N NaOH (aq) (150 p1) was added and the reaction mixture stirred for 3 hours. Then ethanol was removed by evaporation and the aqueous layer acidified using AcOH. The product was extracted into EtOAc (50 ml) and dried over MgSO4. Solvent removal by evaporation yielded a white precipitate. Ether was added and the solid filtered off and washed with ether to yield the title compound (44 mg) on drying. δH (400 MHz, d6DMSO) 1.39 (6H, d), 1.91-1.95 (4H, m), 2.30 (2H, t), 2.96 (2H, m), 3.13 (2H, m), 3.53 (2H, m), 4.60 (2H, s), 4.94-5.03 (1H, m), 7.57 (1H, d), 7.68 (1H, d), 7.97-8.00 (2H, m), 8.41 (1H, dd), 8.52 (1H, d) 10.6 (1H, v. broad s), 12.3 (1H, v. broad s); MS (ES) C26H28N4O4 requires 460; found 461.0 [M+H]+.

reactant | Ethyl 4-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]butanoate | 0.184 mmol, 90 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CCCC(=O)OCC)C1 | C28H32N4O4
reactant | sodium hydroxide | 0.368 mmol, 2N, 0.184 ml | [OH-].[Na+]
reactant | water | 5.00 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]butanoic acid acetate | 44 mg | C(C)(=O)O.C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CCCC(=O)O)C1 | InChI=1S/C26H28N4O4.C2H4O2/c1-17(2)33-23-10-9-20(14-22(23)15-27)26-28-25(29-34-26)19-7-8-21-16-30(12-4-6-24(31)32)11-3-5-18(21)13-19;1-2(3)4/h7-10,13-14,17H,3-6,11-12,16H2,1-2H3,(H,31,32);1H3,(H,3,4)
